US08067408B2
{[3-Bromo-4-(methyloxy)phenyl]methyl}amine
3-Bromo-4-(methyloxy)benzonitrile (2.12 g, 10 mmol), THF (30 mL), and 1.5 M borane in THF (30 mL, 45 mmols) were combined and stirred under argon at reflux. The additional 1.5 M borane in THF (30 mL, 45 mmols) and reflux continued. THF (30 mL), and 1.5 M borane in THF (30 mL, 45 mmols) was again added and the mixture refluxed for a total of ten days to drive the reaction to completion. The reaction was worked up by the cautious addition of ethanol followed by 1N HCl until the pH was 2. This mixture was then heated to 50° C. for 4 h. The solvents were pumped off, and the residue partitioned between EtOAc and water. The aqueous phase was washed 3× with EtOAc and adjusted to pH 10 by the addition of 2.5 N NaOH. The aqueous phase was extracted 3× with EtOAc. The combined organic phases were dried over anhydrous Na2SO4, filtered and concentrated to give the title compound. LC-MS m/z 198.7 (M−NH2), 0.99 min (ret time).

reactant | 3-Bromo-4-(methyloxy)benzonitrile | 10 mmol, 2.12 g | BrC=1C=C(C#N)C=CC1OC | C8H6BrNO
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | borane | 1.5 M | B | BH3
reactant | THF | 45 mmols, 30 mL | C1CCOC1 | C4H8O
reactant | borane | 1.5 M | B | BH3
reactant | THF | 45 mmols, 30 mL | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | borane | 1.5 M | B | BH3
reactant | THF | 45 mmols, 30 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | {[3-Bromo-4-(methyloxy)phenyl]methyl}amine | BrC=1C=C(C=CC1OC)CN | C8H10BrNO
